Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
SOB and CP
 
Major Surgical or Invasive Procedure:
Stress MIBI

 
History of Present Illness:
___ y.o. male with past medical history of CAD, MI in ___ s/p 
PTCA at ___ as well as aplastic anemia, DM, HTN and severe PVD 
which recent admission ___ for chest pain and found to 
be in vtach (thought to be ___ scar), NSTEMI, and acute 
decompensated CHF on the CCU service readmitted from home for 
episode of sudden severe SSCP with dyspnea.
.
During his prior admission, he developed respiratory distress in 
setting of fluid and blood, positioning in preparation for VT 
ablation which was not successful. He had decreased episodes of 
VT throughout his hospitalization.
.
Pt states he was feeling well since his last discharge with no 
SOB or chest pain. The patient reports developing substernal 
chest pain (not as bad as episode in ___ and SOB this AM at 
approx 5am he got out of bed put on his clothes and sat in a 
chair with worsening symptoms. The SOB was the main reason he 
called his lifeline and was taken to the ED by EMS. He had 
emesis x1 on the way to the ED. He denied arm pain, jaw pain, 
nausea, and sweatiness.
.
IN ED, initial vitals were T98, HR81, 170/104, 30, 89% on 2L. 
His SSCP resolved with 1 SL nitro in the ambulance. He was 89% 
on 2L, given ___, lasix 40IV -> 1500ml fluid output. Started on 
nitro gtt, put on CPAP, then titrated down to 99% on 2.5L. Trop 
0.04. On transfer up to floor, the patient was on NTG drip at 
.3mcg/kg/min. He was admitted for further monitoring.
.
On arrival to the ___ floor he is chest pain free and only SOB 
when moving positions. 
 
Past Medical History:
1. Diabetes Mellitus type 2
2. Hypertension
3. Coronary Artery Disease s/p balloon angioplasty in ___
4. Peripheral Vascular Disease s/p R fem-pop bypass in ___
5. s/p right Carotid Endarterectomy in ___ left carotid
artery completely occluded but asymptomatic
6. s/p right ___ toe amputation in ___ 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. 
His mother and sister have diabetes mellitus type two. Many 
members of his family have hyptertension. 

 
Physical Exam:
Physical exam on admission:
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.
Neck: No JVD.
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. + decreased breath 
sounds at bases and mild crackles at lung bases L > R.
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.
Ext: Cold. Right ___ toe amputation. Black on base of ___ toe on 
the left. No c/c/e. + right femoral bruit.
Skin: No stasis dermatitis, ulcers, or scars.
Neuro: A & O x3, CN II-XII intact, UE reflexes +2, strength UE & 
___ ___, sensation intact 
 
Pertinent Results:
Labs on admission ___:
WBC-3.0* RBC-2.80* Hgb-9.7* Hct-27.9* MCV-100* MCH-34.6* 
MCHC-34.8 RDW-19.0* Plt ___
Glucose-304* UreaN-24* Creat-1.9* Na-126* K-4.8 Cl-94* HCO3-18* 
AnGap-19
Calcium-9.5 Phos-3.8 Mg-2.0
Neuts-47.3* Lymphs-45.6* Monos-3.9 Eos-2.5 Baso-0.8
___ PTT-27.0 ___
.
Cardiac labs:
___ 05:35AM BLOOD CK(CPK)-61
___ 05:10PM BLOOD CK(CPK)-95
___ 06:08AM BLOOD CK(CPK)-70
___ 06:20AM BLOOD CK(CPK)-38
___ 05:35AM BLOOD cTropnT-0.04*
___ 05:10PM BLOOD CK-MB-NotDone cTropnT-0.31* ___
___ 06:08AM BLOOD CK-MB-NotDone cTropnT-0.34*
___ 06:20AM BLOOD CK-MB-3 cTropnT-0.24*
.
Labs on discharge ___:
WBC-3.4* RBC-2.56* Hgb-8.9* Hct-25.6* MCV-100* MCH-34.7* 
MCHC-34.7 RDW-18.8* Plt ___
Glucose-102 UreaN-40* Creat-1.8* Na-135 K-4.3 Cl-100 HCO3-23 
AnGap-16
Calcium-9.3 Phos-3.9 Mg-2.2
.
Cardiac Perfusion Persantine ___:
INTERPRETATION:
The image quality is adequate. There is mild soft tissue 
attenuation.
Left ventricular cavity size is markedly enlarged. The EDV is 
299 ml. There is increased ventricular cavity size at stress 
when compared to rest suggesting TID.
Rest and stress perfusion images reveal a fixed severe reduction 
in perfusion of the entire inferior wall. There is a fixed 
moderate reduction in perfusion of the mid and basal segments of 
the inferolateral and lateral walls. There is a mild reversible 
reduction in perfusion of the mid and distal anterior septal 
wall.
Gated images reveal global hypokinesis.
The calculated left ventricular ejection fraction is 20%.
IMPRESSION: 1) Severe, moderate sized fixed defect of the 
inferior wall. 2)
Moderate, large fixed defect of the inferolateral and lateral 
walls. 3) Mild, small reversible defect of the mid and distal 
anterior septum. 4) Global hypokinesis. The ejection fraction is 
20%. 5) TID suggesting multivessel disease. 
.
Stress ___:
INTERPRETATION: This ___ year old type 2 IDDM man with a history 
of
CAD and LVEF of ___ was referred to the lab for evaluation 
following
recent NSTEMI and acute CHF. The patient was referred for a 
functional
study but due to his extremely limited physical ability it was 
converted
to a pharmacologic stress test. He was infused with 0.142 
mg/kg/min of
dipyridamole over 4 minutes. No arm, neck, back or chest 
discomfort was
reported by the patient throughout the study. There were no 
significant
ST segment changes from the baseline abnormalities during the 
infusion
or in recovery. The rhythm was sinus with occasional isolated
polymorphic vpbs. Appropriate hemodynamic response to the 
infusion.
The dipyridamole was reversed with 125 mg of aminophylline IV.
IMPRESSION: No anginal type symptoms or significant ST segment 
changes.
Nuclear report sent separately.
.
CXR ___:
FINDINGS: Interval withdrawal of endotracheal tube and NG tube. 
The cardiac
silhouette is enlarged. Low lung volumes. Engorgement of the 
pulmonary
vasculature with bilateral pleural effusions and increased 
interstitial
opacity consistent with moderate pulmonary edema. There is no 
pneumothorax.
Retrocardiac opacity may represent a combination of atelectasis 
and pleural
effusions. A repeat study after appropriate treatment is 
recommended to
exclude pneumonia.
.
EKG on arrival to floor 14:29 demonstrated: Rate 61 rhythm 
sinus, axis normal, QRS 4 boxes same as prior EKG, T wave 
inversions in v1-v6 but more flat in v5-v6 than prior, more 
biphasinin v1 & v2 and QRS morphology different than prior, no 
ST elevations or depression.
.
Repeat EKG 16:09: deeper T waves in v2, v3 and downward Ts in 
v1(were uprightin v1, v2 in ED department) but more consistent 
with T waves from old EKG in ___ when pt had NSTEMI
 
Brief Hospital Course:
ASSESSMENT AND PLAN:
Patient is a ___ yo male with PMH CAD, MI in ___ s/p PTCA, 
NSTEMI a few weeks ago, Vtach, aplastic anemia, DM, HTN, severe 
PVD, systolic HF, admitted for SSCP and dyspnea. The pt was 
found to have volume overload on CXR consistent with acute on 
chronic systolic CHF.
.
#. CAD- The patient arrived on the floor with a nitro drip and 
chest pain free.  He was chest pain free for the remained of his 
admission.  He was easily weaned from the nitro drip. His EKGs 
showed no ST elevations or depression.  He did have T wave 
changes in the ED that were inconsistent with his most recent 
EKGs but these reverted back to their previous morphology.  He 
was continued on ___, b-blocker, and atorvastatin.  His 
isosorbide dinitrate was held while on the nitro drip and was 
then restarted. His cardiac enzymes were cycled and his 
troponins were positive peaking at 0.34 but his CK and CKMB were 
negative. He was not considered to have ruled in on the basis of 
these troponins alone.  The patient has severe CAD based on his 
echo and MIBI. His stress test showed no anginal type symptoms 
and no significant ST segment changes.  
His MIBI showed: 
1) a Severe, moderate sized fixed defect of the inferior wall. 
2) Moderate, large fixed defect of the inferolateral and lateral 
walls. 
3) Mild, small reversible defect of the mid and distal anterior 
septum. 
4) Global hypokinesis. His EF was 20%. 5) TID suggesting 
multivessel disease. 
.
He was discharged with close follow up with Dr. ___.  
.
#. Pump - The patient had acute on chronic systolic CHF on 
admission.  His BNP was 58396.  He was diuresed and responded 
well to lasix 40 IV.  His EF was ___ on last admission and 
his stress MIBI during this admission showed an EF of 20%. He 
had no crackles on exam on admission. He was discharged home on 
lasix 20mg PO daily, his home dose of b-blocker, daily weights, 
and a low salt diet.
.
#. Rhythm: He had many episodes of VT at previous admission 
likely secondary to previous myocardial scaring. He had only one 
short run of 4 beats of Vtach on telemetry during this 
admission.  He received substrate modification at his previous 
admission and is not an ICD candidate based on his aplastic 
anemia.
.
# Hyponatremia- His hyponatremia improved slowly during his 
admission 126->129->131->131->135 and was resolved on discharge. 
 His hyponatremia was likely due to hypervolemia and improved 
with diuresis.
.
# Aplastic anemia: He has a history of aplastic anemia with a 
baseline HCT of 27. His HCT was 25.6 on discharge.  He was 
continued on his home dose of cyclosporine. 
.
CRF: He had an increased creatinine during his last admission 
and it was 1.9 at the time of his last discharge.  His 
creatinine was up to 2.3 on admission and was 1.8 on the day of 
discharge.  Due to his acute on chronic renal failure he was not 
started on lisinopril during this admission.
.
#. FEN: His lytes were aggressively repleted to K>4 and Mg>2 
given his history of Vtach.  He was maintained on a 
cardiac/heart healthy diet and was fluid restricted to 1.5 
liters.
.
#. PPx: He was on heparin sc TID for DVT prophylaxis and placed 
on a bowel regimen.
.
#. Dipso: He was seen by ___ prior to discharge due to concern 
for deconditioning and he did not require home ___. 
 
Medications on Admission:
Folic acid 1mg daily
Clopidogrel 75 PO daily
___ 325 daily
Atorvastatin 10mg PO daily
Isosorbide Dinitrate 60mg PO TID
Hydralazine 25mg PO q8hrs
Metoprolol Tartrate 50mg (1.5 tab) PO BID
Neoral 25mg (3 caps) PO daily
Insacin (depending on when eat) 
 
Discharge Medications:
1. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Isosorbide Dinitrate 20 mg Tablet Sig: Three (3) Tablet PO 
TID (3 times a day).  
6. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
7. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
8. Cyclosporine Modified 25 mg Capsule Sig: Two (2) Capsule PO 
QAM (once a day (in the morning)).  
9. Cyclosporine Modified 25 mg Capsule Sig: One (1) Capsule PO 
Q5PM ().  
10. Insacin
as per previous home regimen
11. insacin
as per previous home regimen
12. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute on chronic systolic heart failure
Acute Kidney Injury on Chronic Kidney Disease
Hypertension
Ventricular tachycardia
Aplastic Anemia

 
Discharge Condition:
Stable no chest pain or shortness of breath.
 

 
Discharge Instructions:
You were admitted in congestive heart failure.   You were 
diuresed with lasix.  You will be discharged on lasix.  You also 
had chest pain but did not have a heart attack during this 
admission.  You were sent for a stress MIBI test which showed 
some areas of scar and one area of a small reversible defect.
.
New medications:
Lasix 20mg PO daily.
.
All other home medications are the same.
.
For your heart failure:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 1.5L
Take your laxix every day
.
Please stop smoking. Information was given to you on admission 
regarding smoking cessation. 
 
Followup Instructions:
___